US08420642B2
3-(2-Methoxy-ethoxy)-2-nitro-5-(pyridine-3-yloxy)-pyridine (0.52 mmol) is dissolved in acetic acid (50 eq.). After addition of water (1.5 ml), zinc powder (6.3 eq.) is added and the reaction suspension is heated to 105° C. for 90 minutes. The reaction suspension is cooled to room temperature and filtrated. The filtrate is pored into 3.5% NaOH (30 ml) and extracted with dichloromethane. The combined organic layers are washed with brine, dried over MgSO4 and the solvent is removed in vacuo. 3-(2-Methoxy-ethoxy)-5-(pyridine-3-yloxy)-pyridine-2-ylamine is obtained as yellow oil in a yield of 93%. HPLC (method C): 0.44 min, LC-MS (method A): 0.46 min, 262.15 (MH+),

reactant | 3-(2-Methoxy-ethoxy)-2-nitro-5-(pyridine-3-yloxy)-pyridine | 0.52 mmol | COCCOC=1C(=NC=C(C1)OC=1C=NC=CC1)[N+](=O)[O-] | C13H13N3O5
reactant | acetic acid | 50 eq. | C(C)(=O)O | C2H4O2
catalyst | zinc | 6.3 eq. | [Zn] | Zn
solvent | water | 1.5 ml | O | H2O
product | 3-(2-Methoxy-ethoxy)-5-(pyridine-3-yloxy)-pyridine-2-ylamine | yield of 93% | COCCOC=1C(=NC=C(C1)OC=1C=NC=CC1)N | C13H15N3O3
